US09334267B2
1-(3,3-Dimethylcyclobutyl)-3-(2-fluoro-5-(2-((2-methoxyethyl)amino)-7-methylpyrido[2,3-d]pyrimidin-6-yl)-4-methylphenyl)urea
Treat a solution of 6-(5-amino-4-fluoro-2-methylphenyl)-N-(2-methoxyethyl)-7-methylpyrido[2,3-d]pyrimidin-2-amine (0.270 g, 0.791 mmol) in dioxane (5 mL) with 3,3-dimethylcyclobutane carboxylic acid (0.122 g, 0.949 mmol) followed by DPPA (0.261 g, 0.949 mmol) and TEA (0.160 g, 1.582 mmol), stir at RT for 20 minutes, heat to 90° C. for 2 h and then cool to RT overnight. Concentrate the mixture to dryness, purify via silica gel chromatography (20-100% EtOAc/Hexanes) and triturate with MeCN. Collect the resulting material via filtration and re-purify via silica gel chromatography (20-100% EtOAc/Hexanes) to afford the title compound as a yellow solid (55 mg, 13% yield). MS (m/z): 467.3 (M+1).

reactant | 6-(5-amino-4-fluoro-2-methylphenyl)-N-(2-methoxyethyl)-7-methylpyrido[2,3-d]pyrimidin-2-amine | 0.791 mmol, 0.270 g | NC=1C(=CC(=C(C1)C1=CC2=C(N=C(N=C2)NCCOC)N=C1C)C)F | C18H20FN5O
reactant | 3,3-dimethylcyclobutane carboxylic acid | 0.949 mmol, 0.122 g | CC1(CC(C1)C(=O)O)C | C7H12O2
reactant | DPPA | 0.949 mmol, 0.261 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(3,3-Dimethylcyclobutyl)-3-(2-fluoro-5-(2-((2-methoxyethyl)amino)-7-methylpyrido[2,3-d]pyrimidin-6-yl)-4-methylphenyl)urea | 55 mg, 13% yield | CC1(CC(C1)NC(=O)NC1=C(C=C(C(=C1)C1=CC2=C(N=C(N=C2)NCCOC)N=C1C)C)F)C | C25H31FN6O2
